L3 (net36 net35) inductor
L2 (net24 net23) inductor
L0 (VDD VOUT1) inductor
L1 (VDD VOUT2) inductor
C1 (VOUT2 net36) capacitor
C0 (VOUT1 net24) capacitor
R3 (VB2 net40) resistor
R2 (net39 VB3) resistor
R0 (net28 VCONT1) resistor
R1 (VB1 net27) resistor
M7 (net35 net23 VSS net39) nmos4
M6 (net23 net35 VSS net40) nmos4
M5 (net28 net36 net28 VSS) nmos4
M4 (net28 net24 net28 VSS) nmos4
M1 (VOUT2 net27 net36 VSS) nmos4
M0 (VOUT1 net27 net24 VSS) nmos4